US05175293
N-(4-methyl-6-cyclopropylpyrimidin-2-yl)-N-phenyl-N'-isobutylhydrazine (Comp. 4.87)
8.55 g (0.029 mol) of N-(4-methyl-6-cyclopropylpyrimidin-2-yl)-N-phenylisobutyraldehyde hydrazone are dissolved in 30 ml of methanol and 2 ml of glacial acetic acid. 2.14 g (0.029 mol) of sodium cyanoborohydride are then added in portions with stirring. The reaction proceeds exothermically; the temperature is maintained at 10°-15° C. by cooling. After 1 hour, the batch is worked up by extraction with ethyl acetate and water and the organic phase is concentrated using a rotary evaporator to give 8.5 g of crude product. Purification by column chromatography on silica gel (eluant: 85% hexane/15% ethyl acetate) affords 7.6 g (89% of the theoretical yield) of the title compound in the form of an oil having a refractive index of [n]D25 =1.5733.

reactant | N-(4-methyl-6-cyclopropylpyrimidin-2-yl)-N-phenylisobutyraldehyde hydrazone | 0.029 mol, 8.55 g | CC1=NC(=NC(=C1)C1CC1)N(N=CC(C)C)C1=CC=CC=C1 | C18H22N4
reactant | sodium cyanoborohydride | 0.029 mol, 2.14 g | C(#N)[BH3-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | N-(4-methyl-6-cyclopropylpyrimidin-2-yl)-N-phenyl-N'-isobutylhydrazine | CC1=NC(=NC(=C1)C1CC1)N(NCC(C)C)C1=CC=CC=C1 | C18H24N4
